.subckt AND_4 node_a node_b node_c node_d node_out node_x gnd
    
    X1 node_a node_b node_out1 node_x gnd AND
    X2 node_c node_d node_out2 node_x gnd AND
    X3 node_out1 node_out2 node_out node_x gnd AND
.ends AND_4