.subckt OR_4 node_a node_b node_c node_d node_out node_x gnd

X1 node_a node_b node_out1 node_x gnd OR
X2 node_c node_d node_out2 node_x gnd OR
X3 node_out1 node_out2 node_out node_x gnd OR

.ends OR_4