.subckt XOR node_a node_b node_out node_x gnd
    X1 node_a node_b node_c node_x gnd NAND
    X2 node_a node_c node_d node_x gnd NAND
    X3 node_b node_c node_e node_x gnd NAND
    X4 node_e node_d node_out node_x gnd NAND
.ends XOR
