.subckt andder A0 A1 A2 A3 B0 B1 B2 B3 answer0 answer1 answer2 answer3 node_x gnd
    X1 A0 B0 answer0 node_x gnd AND
    X2 A1 B1 answer1 node_x gnd AND
    X3 A2 B2 answer2 node_x gnd AND
    X4 A3 B3 answer3 node_x gnd AND
.ends andder
