.subckt halfadder node_a node_b node_sum node_carry node_x gnd

    X1 node_a node_b node_sum node_x gnd XOR
    X2 node_a node_b node_carry node_x gnd AND

.ends halfadder